US05994368
To a stirred solution of 8-benzyloxy-2-methyl-4-vinylquinoline (200 mg) in 1,4-dioxane-water (3:1, V/V, 1 ml) was added catalytic amount of osmium tetroxide in tert-butanol in an ice bath. Sodium periodate (342 mg) was added to the reaction mixture portionwise and the resulting suspension was vigorously stirred overnight at ambient temperature. The mixture was extracted with ethyl acetate and washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo to give a brown oil. This was purified by a silica gel column eluting with ethyl acetate-n-hexane (1:3, V/V) to give 8-benzyloxy-4-formyl-2-methylquinoline as a yellow solid (123 mg).

reactant | 8-benzyloxy-2-methyl-4-vinylquinoline | 200 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)C=C | C19H17NO
reactant | Sodium periodate | 342 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane water | 1 ml | O1CCOCC1.O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 8-benzyloxy-4-formyl-2-methylquinoline | 123 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)C=O | C18H15NO2
